US04988733
(a) (E)-1-[3-(4-Chlorophenoxy)phenyl]buten-3-one
10 N aqu. NaOH (2 ml) was added to a solution of 3-(4-chlorophenoxy)-benzaldehyde (23.3 g, Aldrich) in acetone (150 ml) and stirred vigorously. After a few minutes' stirring, the temperature rose to 32° C. The mixture was left for 5 minutes and then poured into 2 M aqu. HCl (600 ml) and extracted with ether/pet. ether (1:1, 200 ml). The extract was washed with water and satd. aqu. NaCl, dried over MgSO4, and stripped to give the aldol product. The latter was taken up in toluene (300 ml), p-toluenesulphonic acid (1 g) was added, and the mixture heated for 1 hour. The mixture was then cooled, washed with satd. aqu. NaHCO3 and satd. aqu. NaCl, dried over MgSO4 and stripped. The residue was eluted through a slice gel column using methylene chloride/40-60 pet. ether (1:1, followed by 3:1) and the eluate stripped to give the desired product (19 g).

reactant | NaOH | 2 ml | [OH-].[Na+]
reactant | 3-(4-chlorophenoxy)-benzaldehyde | 23.3 g | ClC1=CC=C(OC=2C=C(C=O)C=CC2)C=C1 | C13H9ClO2
reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-1-[3-(4-Chlorophenoxy)phenyl]buten-3-one | 19 g | ClC1=CC=C(OC=2C=C(C=CC2)\C=C\C(C)=O)C=C1 | C16H13ClO2
